US08937150B2
3-Fluoro-4-iodoaniline
To a suspension of 3-fluoroaniline (1.0 mL, 1.16 g, 10.39 mmol) and solid sodium bicarbonate (1.75 g, 20.79 mmol) in 1:1 methanol-dichloromethane (20 mL) at 0° C. was added a solution of benzyl trimethylammonium dichloroiodate (3.62 g, 10.39 mmol) in dichloromethane (15 mL) over 30 minutes. The mixture was then allowed to warm to room temperature for 1 hour. The mixture was quenched by addition of water and the organic layer was extracted with water (2×). Drying (Na2SO4) and concentration in vacuo afforded an oil, which was chromatographed over a 100 g silica gel cartridge, eluting with 10-100% ethyl acetate in hexanes. These procedures afforded the title compound (2.20 g, 89%) as a pink solid. 1H NMR (400 MHz, CDCl3) δ ppm 7.41 (dd, J=8.3, 7.3 Hz, 1 H), 6.42 (dd, J=9.9, 2.5 Hz, 1 H), 6.27 (dd, J=8.5, 2.5 Hz; 1 H), 3.81 (s, 2 H); MS+ESI m/z (rel abundance) 238 (100, M+H).

reactant | 3-fluoroaniline | 10.39 mmol, 1.0 mL, 1.16 g | FC=1C=C(N)C=CC1 | C6H6FN
reactant | sodium bicarbonate | 20.79 mmol, 1.75 g | C([O-])(O)=O.[Na+]
reactant | methanol dichloromethane | 20 mL | CO.ClCCl
reactant | benzyl trimethylammonium dichloroiodate | 10.39 mmol, 3.62 g | I(=O)(=O)Cl.I(=O)(=O)Cl.C(C1=CC=CC=C1)[N+](C)(C)C
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-Fluoro-4-iodoaniline | 2.20 g, 89% | FC=1C=C(N)C=CC1I | C6H5FIN
